US08912188B2
To a solution of methyl 3-[methyl(propan-2-yl)amino]-2-(3-methyl-1-benzofuran-5-yl)quinoxaline-6-carboxylate (110 mg, 0.28 mmol) in methanol (25 mL) and chloroform (5 mL) was added sodium hydroxide (468 mg, 1.17 mmol) and water (2 mL) with stirring for 3 h at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (15 mL), and adjusted pH to 5 with HCl (3N) to give the precipitate, which was collected by filtration to afford 3-[methyl(propan-2-yl)amino]-2-(3-methyl-1-benzofuran-5-yl)quinoxaline-6-carboxylic acid (62 mg, 59%).

reactant | methyl 3-[methyl(propan-2-yl)amino]-2-(3-methyl-1-benzofuran-5-yl)quinoxaline-6-carboxylate | 0.28 mmol, 110 mg | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=CC2=C(C(=CO2)C)C1)C(C)C | C23H23N3O3
reactant | sodium hydroxide | 1.17 mmol, 468 mg | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 25 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-[methyl(propan-2-yl)amino]-2-(3-methyl-1-benzofuran-5-yl)quinoxaline-6-carboxylic acid | 62 mg, 59% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=CC2=C(C(=CO2)C)C1)C(C)C | C22H21N3O3
